*4-bit ALU
.subckt ALU4b M1 M0 A3 A2 A1 A0 B3 B2 B1 B0 Cin F3 F2 F1 F0 Cout gnd
.include ALU_1b.sub
XA1 M1 M0 A0 B0 Cin gnd gnd F0 net0 gnd ALU1b
XA2 M1 M0 A1 B1 net0 F0 net0 F1 net1 gnd ALU1b
XA3 M1 M0 A2 B2 net1 F1 net1 F2 net2 gnd ALU1b
XA4 M1 M0 A3 B3 net2 F2 net2 F3 Cout gnd ALU1b
.ends ALU4b
*M1 M0 select mode of operation
*00 --> Add
*01 --> Subtract
*10 --> Compare
*11 --> AND