*Two input CMOS AND gate
.subckt AND A B F GND 
.include inverter.sub
Vdd source gnd supply
MP1 notF A source source CMOSP W = 1u L = 180n
MP2 notF B source source CMOSP W = 1u L = 180n
MN1 notF A net0 net0 CMOSN W = 0.5u L = 180n
MN2 net0 B GND GND CMOSN W = 0.5u L = 180n
Xnot1 notF F GND Inv
.ends
