*Two input CMOS OR gate
.subckt OR A B F GND
.include inverter.sub
Vdd net0 GND supply
MN1 notF A GND GND CMOSN W = 0.5u L = 180n
MN2 notF B GND GND CMOSN W = 0.5u L = 180n

MP1 net1 A net0 net0 CMOSP W = 1u L = 180n
MP2 notF B net1 net1 CMOSP W = 1u L = 180n

Xout notF F GND Inv
.ends
