*Comparator
.subckt comparator A B C0 C1 Z0 Z1 GND
.include inverter.sub
.include AND_2.sub
.include OR_2.sub

Xnot1 A notA gnd Inv
Xnot2 B notB gnd Inv

Xand1 A notB t0 gnd AND
Xand2 A C1 t1 gnd AND
Xand3 notB C1 t2 gnd AND
Xand4 notA B t3 gnd AND
Xand5 notA C0 t4 gnd AND
Xand6 B C0 t5 gnd AND

Xor1 t0 t1 net1 gnd OR
Xor2 net1 t2 Z1 gnd OR
Xor3 t3 t4 net3 gnd OR
Xor4 net3 t5 Z0 gnd OR

.ends comparator