*Two to four decoder
.subckt decoder S1 S0 R3 R2 R1 R0 GND
.include AND_2.sub
.include inverter.sub

Xnot1 S0 notS0 gnd Inv
Xnot2 S1 notS1 gnd Inv

Xa1 notS1 notS0 R0 gnd AND
Xa2 notS1 S0 R1 gnd AND
Xa3 S1 notS0 R2 gnd AND
Xa4 S1 S0 R3 gnd AND
.ends decoder