*Full Adder
.SUBCKT full_add A B Cin Sum Cout GND
.include half_adder.sub
.include OR_2.sub
xHA1 A B net1 net2 GND half_add
XHA2 net1 Cin Sum net3 GND half_add
Xf1 net2 net3 Cout GND OR
.ends
