*CMOS Inverter
.SUBCKT Inv Input Output GND
Vdd net1 GND supply
MN1 output input GND GND CMOSN W = 0.5u L = 180n
MP1 output input net1 net1 CMOSP W = 1u L = 180n
.ENDS Inv